### PR TITLE
Erdős problem 137

### LINKED ISSUE #372: Erdős Problem 137
### What is the conjecture
    
https://www.erdosproblems.com/137

  Let $k\geq 3$. Can the product of any $k$ consecutive integers $N$ ever be powerful? That is, must there always exist a prime $p\mid N$ such that $p^2\nmid N$?

Status: open

### Prerequisites needed
None (after manually defining "powerful")

See also #373

### PR DESCRIPTION
**Pull request by mo271**
fixes #372

### CODE REVIEW

File: FormalConjectures/ErdosProblems/137.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+  theorem erdos_137 : (∀ k ≥ 3, ∀ n, ¬ ((Finset.Ioc n (n + k)).prod id).Powerful) ↔ answer(sorry) := by
+  sorry
+
+/--
+Let $k\geq 2$. Erdős and Selfridge [ES75] proved that the product of any $k$ consecutive
+integers $N$ cannot be a perfect power.
+-/
+@[category research solved, AMS 11]
+theorem erdos_137.variants.perfect_power (k : ℕ) (hk : k ≥ 2) (n : ℕ) (x l : ℕ)
+(hl : 2 ≤ l):
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean]:
```suggestion
theorem erdos_137.variants.perfect_power (k : ℕ) (hk : k ≥ 2) (n : ℕ) (x l : ℕ) (hl : 2 ≤ l) :
```
I think this line-break might be by mistake?

File: FormalConjectures/ErdosProblems/137.lean [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+  Illinois J. Math. 19(2): 292-301, 1975
+-/
+
+/--
+Let $k\geq 3$. Can the product of any $k$ consecutive integers $N$ ever be powerful? That is,
+must there always exist a prime $p\mid N$ such that $p^2\nmid N$?
+-/
+@[category research open, AMS 11]
+  theorem erdos_137 : (∀ k ≥ 3, ∀ n, ¬ ((Finset.Ioc n (n + k)).prod id).Powerful) ↔ answer(sorry) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean]:
```suggestion
theorem erdos_137 :
    (∀ k ≥ 3, ∀ n, ¬ (∏ x ∈ Finset.Ioc n (n + k), x).Powerful) ↔ answer(sorry) := by
  sorry
```
theorem here is indented by mistake, and I prefer the product notation for readability (as this affects how it's printed in the goal)

File: FormalConjectures/ErdosProblems/137.lean [hunk 3]
```diff
@@ -0,0 +1,57 @@
...
+
+/--
+Let $k\geq 2$. Erdős and Selfridge [ES75] proved that the product of any $k$ consecutive
+integers $N$ cannot be a perfect power.
+-/
+@[category research solved, AMS 11]
+theorem erdos_137.variants.perfect_power (k : ℕ) (hk : k ≥ 2) (n : ℕ) (x l : ℕ)
+(hl : 2 ≤ l):
+    ((Finset.Ioc n (n + k)).prod id) ≠ x ^ l := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean]:
```suggestion
    (∏ x ∈ Finset.Ioc n (n + k), x) ≠ x ^ l := by
```
As above

File: FormalConjectures/ErdosProblems/137.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+Erdős [Er82c] conjectures that, if $m$, $k$ are fixed and $n$ sufficiently large, then there must
+be at least $k$ distict primes $p$ such that $p\mid m(m+1)\cdots (m+n)$ and yet $p^2$ does not
+divide the right hand side.
+-/
+@[category research open, AMS 11]
+theorem erdos_137.multiple_powerful_factors (m k : ℕ) (hm : 0 < m): ∃ (n₀ : ℕ), ∀ n > n₀,
+    letI N := (Finset.Icc m (m + n)).prod id
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean]:
```suggestion
    letI N := ∏ x ∈ Finset.Ioc m (m + n), x
```
as above

File: FormalConjectures/ErdosProblems/137.lean [hunk 5]
```diff
@@ -0,0 +1,57 @@
...
+theorem erdos_137.variants.perfect_power (k : ℕ) (hk : k ≥ 2) (n : ℕ) (x l : ℕ)
+(hl : 2 ≤ l):
+    ((Finset.Ioc n (n + k)).prod id) ≠ x ^ l := by
+  sorry
+
+/--
+Erdős [Er82c] conjectures that, if $m$, $k$ are fixed and $n$ sufficiently large, then there must
+be at least $k$ distict primes $p$ such that $p\mid m(m+1)\cdots (m+n)$ and yet $p^2$ does not
+divide the right hand side.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean]:
```suggestion
divide the right hand side.

[Er82c] Erdős, P., Miscellaneous problems in number theory. Congr. Numer. (1982), 25-45.
-/
```

File: FormalConjectures/ErdosProblems/137.lean [hunk 6]
```diff
@@ -0,0 +1,57 @@
...
+/--
+Let $k\geq 3$. Can the product of any $k$ consecutive integers $N$ ever be powerful? That is,
+must there always exist a prime $p\mid N$ such that $p^2\nmid N$?
+-/
+@[category research open, AMS 11]
+  theorem erdos_137 : (∀ k ≥ 3, ∀ n, ¬ ((Finset.Ioc n (n + k)).prod id).Powerful) ↔ answer(sorry) := by
+  sorry
+
+/--
+Let $k\geq 2$. Erdős and Selfridge [ES75] proved that the product of any $k$ consecutive
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/137.lean:36]: I can't find this reference [ES75] on the corresponding webpage to this erdos problem. Could you add the reference here?

Comment (mo271) [reply FormalConjectures/ErdosProblems/137.lean:36]: I had put the reference [ES75], not from erdosproblems, but added by myself, at the top of the file under "references", but from your remark, I see it is better to put it closer. We don't yet have a very disciplined way of dealing with references, especially when they appear in more than one conjecture. We probably should at some point, I will open an issue.

Comment (callesonne) [reply FormalConjectures/ErdosProblems/137.lean:36]: Ah I missed that! Okay I agree with this, and probably adding the references like you did is better long-term but maybe a bit confusing since we don't follow it everywhere yet.
